US06949542B2
(2-Amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (4-chloro-5-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example A17) (4.45 g, 15.5 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a yellow solid (3.90 g, 98%).

reactant | (4-chloro-5-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester | 15.5 mmol, 4.45 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)[N+](=O)[O-])=O | C12H15ClN2O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
